* C:\Users\ymnk2\Documents\GitHub\PySpiceVisualizer\LTSpice\Draft3.asc
R1 N002 N003 {R}
V1 N001 0 SINE(0 0.5 {fsig})
C1 N002 N003 {C}
R2 N003 0 {R1}
V2 N001 N002 1
.param R=1m R1=5 C=10m fsig=100
.tran 0 {f(fsig)} {g(fsig)}
.func f(fsig) {9/fsig}
.func g(fsig) {5/fsig}
.backanno
.end
